US07696231B2
b) Preparation of 4-cyano-N-[4-(hydrazinocarbonyl)phenyl]benzamide (Scheme 2, compound B)
To a suspension of methyl 4-[(4-cyanobenzoyl)amino]benzoate (680 mg, 2.43 mmol) in EtOH (8 mL) was added hydrazine hydrate (1.8 mL). After stirring for 15 h at reflux, the reaction mixture was cooled to rt and a white solid precipitated out. Filtration, washing with EtOH (1×2 mL) and water (2×2 mL), and drying under vacuo at rt for 72 hrs gave 432 mg of the title compound (64%) as a pale yellow solid in 94.2% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | methyl 4-[(4-cyanobenzoyl)amino]benzoate | 2.43 mmol, 680 mg | C(#N)C1=CC=C(C(=O)NC2=CC=C(C(=O)OC)C=C2)C=C1 | C16H12N2O3
reactant | hydrazine hydrate | 1.8 mL | O.NN
solvent | EtOH | 8 mL | CCO | C2H6O
product | 4-cyano-N-[4-(hydrazinocarbonyl)phenyl]benzamide | 432 mg, 64% | C(#N)C1=CC=C(C(=O)NC2=CC=C(C=C2)C(=O)NN)C=C1 | C15H12N4O2
